US05578627
To a suspension of 0.40 g of 3-(2-amino-3-methoxypropoxy)-5-benzyloxy-1,2-benzoisoxazole hydrochloride in 20 ml of methanol is added 0.1 g of 5% palladium carbon, and they are subjected to catalytic reduction at 20°-25° C. under atmospheric pressure. The 5% palladium carbon is removed from the reaction mixture by filtration, and the solvent is removed from the filtrate by distillation under reduced pressure. The residue obtained is crystallized from 2-propanol, and the crystals are collected by filtration, to obtain 0.16 g of colorless, crystalline 3-(2-amino-3-methoxypropoxy)-5-hydroxy-1,2-benzoisoxazole hydrochloride having a melting point of 187°-190° C.

reactant | 3-(2-amino-3-methoxypropoxy)-5-benzyloxy-1,2-benzoisoxazole hydrochloride | 0.40 g | Cl.NC(COC1=NOC2=C1C=C(C=C2)OCC2=CC=CC=C2)COC
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium carbon | 0.1 g | [C].[Pd]
product | 3-(2-amino-3-methoxypropoxy)-5-hydroxy-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)O)COC | InChI=1S/C11H14N2O4.ClH/c1-15-5-7(12)6-16-11-9-4-8(14)2-3-10(9)17-13-11;/h2-4,7,14H,5-6,12H2,1H3;1H
